US09029560B2
Preparation of 1-[(2-ethylphenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea (PC75)
The title compound was prepared as described in Example 75 using 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (CA44) and 1-(2-ethylphenyl)thiourea isolated as a white solid (0.104 g, 35%): 1H NMR (400 MHz, DMSO-d6) δ 12.01 (s, 1H), 10.13 (s, 1H), 9.42 (s, 1H), 8.15-8.05 (m, 2H), 8.05-7.96 (m, 2H), 7.67-7.57 (m, 2H), 7.56-7.45 (m, 2H), 7.39 (dt, J=7.7, 1.4 Hz, 1H), 7.33-7.25 (m, 1H), 7.25-7.17 (m, 2H), 7.09-6.96 (m, 1H), 3.47 (q, J=6.5 Hz, 2H), 2.89 (t, J=6.9 Hz, 2H), 2.58-2.51 (m, 2H), 1.11 (t, J=7.5 Hz, 3H); 19F NMR (376 MHz, DMSO-d6) δ −56.97; ESIMS m/z 555 ([M+H]+), 553 ([M−H]−).

reactant | 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | N(=C=O)CCC=1C=C(C=CC1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C18H13F3N4O2
reactant | 1-(2-ethylphenyl)thiourea | C(C)C1=C(C=CC=C1)NC(=S)N | C9H12N2S
product | 1-[(2-ethylphenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea | C(C)C1=C(C=CC=C1)NC(=S)NC(=O)NCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C27H25F3N6O2S
